US05981572
1-Chloro-4-(2,2-diethoxy-ethoxy)-2-methyl-benzene
A mixture of 4-chloro-3-methylphenol (47 g), bromoacetaldehyde diethyl acetal (45 ml) and potassium hydroxide (33.6 g) in dimethyl sulphoxide (250 ml) was heated at 120° for 2 h. The cooled mixture was partitioned between water (750 ml) and toluene (3×500 ml) and the combined organic extracts washed with brine/water 1:1 (3×300 ml) and dried (Na2SO4). The solvent was evaporated to give the title compound as a pale yellow oil (67.9 g)

reactant | 4-chloro-3-methylphenol | 47 g | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | bromoacetaldehyde diethyl acetal | 45 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | potassium hydroxide | 33.6 g | [OH-].[K+]
solvent | dimethyl sulphoxide | 250 ml | CS(=O)C | C2H6OS
product | 1-Chloro-4-(2,2-diethoxy-ethoxy)-2-methyl-benzene | 67.9 g | ClC1=C(C=C(C=C1)OCC(OCC)OCC)C | C13H19ClO3
